US08580762B2
(1-methylcyclobutyl)benzene
A stirred mixture of benzene (5.0 ml, 56 mmol) and Sulfuric acid (1.17 ml, 21.9 mmol) was cooled to 0° C. and treated dropwise with a solution of Methylenecyclobutane (1.00 ml, 10.8 mmol) in Benzene (3.0 ml, 34 mmol) over-1 h. Upon completion of the addition, the reaction mixture was stirred an additional 1 h while being warmed to RT. The mixture extracted with 15 ml of hexane. The organic phase was washed with 10 ml H2O and 10 ml sat NaHCO3, dried over Na2SO4, filtered and concentrated to yield a colorless liquid. The liquid was purified by kugelrohr distillation (5-10 torr) to yield the desired compound as a colourless liquid. First fraction was collected at 75-85° C. as a colorless liquid (330 mg) of product as a colorless liquid. 1-(1-methylcyclobutyl)-4-nitrobenzene

reactant | benzene | 56 mmol, 5.0 ml | C1=CC=CC=C1 | C6H6
reactant | Sulfuric acid | 21.9 mmol, 1.17 ml | S(O)(O)(=O)=O | H2O4S
reactant | Methylenecyclobutane | 10.8 mmol, 1.00 ml | C=C1CCC1 | C5H8
reactant | Benzene | 34 mmol, 3.0 ml | C1=CC=CC=C1 | C6H6
product | (1-methylcyclobutyl)benzene | CC1(CCC1)C1=CC=CC=C1 | C11H14
